US05597820
To a solution of 7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (prepared in Preparation 1) (1.00 g) in dimethylformamide (5 ml) were added 60% sodium hydride (in oil) (0.22 g) and ethyl iodide (0.78 g) and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction solution and extraction with ethyl acetate was conducted. The solvent was distilled off under reduced pressure to give 4-ethyl-7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (0.89 g).

reactant | 7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.00 g | COC(=O)C1=CC2=C(NC(C(O2)C)=O)C=C1 | C11H11NO4
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | ethyl iodide | 0.78 g | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethyl-7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 0.89 g | C(C)N1C(C(OC2=C1C=CC(=C2)C(=O)OC)C)=O | C13H15NO4
